US09034879B2
Step 1: (S)-2-(5-(3-Amino-6-methoxy-5-(trifluoromethyl)-4-vinylpyridin-2-yl)-1,3,4-oxadiazol-2-yl)-1,1,1-trifluoropropan-2-ol
To a solution of (S)-2-(5-(3-amino-4-chloro-6-methoxy-5-(trifluoromethyl)pyridin-2-yl)-1,3,4-oxadiazol-2-yl)-1,1,1-trifluoropropan-2-ol (Ex 13.1) (160 mg, 0.393 mmol) in MeCN (1 ml) was added bis(triphenyl phosphine)palladium(II) chloride (Aldrich) (83 mg, 0.118 mmol) followed by 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (Sigma Aldrich)(0.087 ml, 0.511 mmol). 2M Sodium carbonate (0.885 ml, 1.770 mmol) was added and the resulting mixture was heated at 130° C. for 30 minutes using microwave radiation. The mixture was filtered through Celite® and washed through with EtOAc. The filtrate was diluted further with EtOAc (50 ml) and washed with sat.NaHCO3, water, brine and dried over MgSO4. Isolute Si-TMT (2,4,6-trimercaptotriazine silica, palladium scavenger) was added the mixture was stirred for 30 mins and filtered. The solvent was removed in vacuo to afford the title compound which was used without further purification;

reactant | (S)-2-(5-(3-amino-4-chloro-6-methoxy-5-(trifluoromethyl)pyridin-2-yl)-1,3,4-oxadiazol-2-yl)-1,1,1-trifluoropropan-2-ol | 0.393 mmol, 160 mg | NC=1C(=NC(=C(C1Cl)C(F)(F)F)OC)C1=NN=C(O1)[C@](C(F)(F)F)(C)O | C12H9ClF6N4O3
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 0.511 mmol, 0.087 ml | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | Sodium carbonate | 1.770 mmol, 2M, 0.885 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeCN | 1 ml | CC#N | C2H3N
catalyst | bis(triphenyl phosphine)palladium(II) chloride | 0.118 mmol, 83 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-2-(5-(3-Amino-6-methoxy-5-(trifluoromethyl)-4-vinylpyridin-2-yl)-1,3,4-oxadiazol-2-yl)-1,1,1-trifluoropropan-2-ol | NC=1C(=NC(=C(C1C=C)C(F)(F)F)OC)C1=NN=C(O1)[C@](C(F)(F)F)(C)O | C14H12F6N4O3
